US07550505B2
3-(1-bromonaphthalen-4-ylsulfonyl)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide, (PLM9)
To a solution of 3-(1-bromonaphthalen-4-ylthio)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide (13 mg, 0.025 mmol) in dichloromethane (0.06 mL) at −78° C. was added 30% hydrogen peroxide (4.4 μL, 0.155 mmol) followed by the slow addition of trifluoroacetic anhydride (18 μL, 0.13 mmol). The reaction was stirred at room temperature for 16 h before the reaction was diluted with dichloromethane. Cold water and brine were added, and the reaction was stirred for 20 minutes. The organic layer was separated, dried over magnesium sulfate, filtered and evaporated. Purification by column chromatography (hexane:EtOAc 50:50) yielded 9 mg of desired product.

reactant | 3-(1-bromonaphthalen-4-ylthio)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide | 0.025 mmol, 13 mg | BrC1=CC=C(C2=CC=CC=C12)SCC(C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C22H16BrF3N2O2S
reactant | hydrogen peroxide | 0.155 mmol, 4.4 μL | OO | H2O2
reactant | trifluoroacetic anhydride | 0.13 mmol, 18 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 0.06 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 3-(1-bromonaphthalen-4-ylsulfonyl)-N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methylpropanamide | 9 mg | BrC1=CC=C(C2=CC=CC=C12)S(=O)(=O)CC(C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C22H16BrF3N2O4S
